US07034039B2
3-(Aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-6-carboxamide ½ dimethyl sulfoxide solvate
A mixture of 3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-6-carbonitrile (20.0 g), 2N aqueous sodium-hydroxide solution (6 ml), dimethyl sulfoxide (100 ml) and water (40 ml) was stirred at an inner temperature of 85° C. for 30 min. The reaction mixture was cooled to 40° C., cooled to not higher than 5° C. and stirred for 1 h. The precipitated crystals were collected by filtration and washed twice with water (40 ml) to give the title compound (21.7 g) as pale yellow crystals.

reactant | 3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-6-carbonitrile | 20.0 g | NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C#N)=O)CC(C)C | C21H21N3O
reactant | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | water | 40 ml | O | H2O
product | 3-(Aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-6-carboxamide | 21.7 g | NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=O)N)=O)CC(C)C | C21H23N3O2
